Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodinated Contrast Media - IV Dye / amoxicillin
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
 ___ with history of palpitations associated with sinus rhythm, 
obesity, nephrolithiasis and recent diagnosis of IgA vasculitis 
in setting of abdominal cramping and rash after taking amoxillin 
who is admitted with abdominal pain and acute kidney injury.  
 His presentation of IgA vasculitis is detailed as follows:  
 - end of ___: amoxicillin therapy after tooth extraction  
 - ___: evaluated by PCP for abd pain that started during last 
two days of amoxicillin course, GI referral placed  
 - ___: ER presentation for rash accompanied by arthralgias, 
felt to be related to amox  
 - ___: ER for nausea, rash and hypertension, felt nausea 
unrelated to rash and rash due to amox  
 - ___: PCP ___: Allergy, derm, GI referral, abdominal 
ultrasound  
 - ___: Ultrasound with steatosis in liver, numerous 
nephrolithiasis without obstruction or acute process  
 - ___: Derm referral for rash persisting for 10 days, favored 
leukocytoclastic vasculitis, biopsy done  
 - ___: GI referral, felt symptoms consistent with reflux, 
decision made to trial PPI given improvement in symptoms with 
initiation of this medication  
 - ___: Biopsy results show IgA vasculitis. Abdominal pain 
occurred again, seen in urgent care with RUQ pain that moved to 
RLQ pain, ultrasound unchanged essentially from ___. Pain 
improved with continued PPI.  
 - ___: Abdominal pain recurred, more severe such that it was 
difficult to get comfortable. No associated fever, chills, 
nausea, vomiting, diarrhea. Rash persistent. Over concern that 
the pain could represent something worrisome, he presented to 
the ED.  
 In the ___ ED,  
 - initial vital signs were: 99.7 86 146/87 16 98% RA  
 - Labs were notable for Cr up to 1.3 from 0.9, UA with RBC 124 
and 30 protein, WBC 11.6, H/H 12.1/38.5, ALT of 52 from 43 two 
days prior, Tbili 0.5, lipase 29  
 - Imaging notable for 4mm stone at Right UPJ without 
hydronephrosis  
 - Patient was given 650 mg Tylenol, 1L NS  
 On Transfer Vitals were: 99.9 78 132/73 16 100% RA  
 On arrival to the floor, patient endorses the above story and 
states that his abdominal pain is significantly better after 
Tylenol. Denies black or bloody stools.  
 
Past Medical History:
 - panic attacks  
 - palpitations: monitor showed sinus rhythm  
 - H. pylori infection  
 - obesity  
 - likely NAFLD  
 - presumed GERD  
 - IgA vasculitis  
 
Social History:
___
Family History:
Mother has seasonal allergies. Father has hypertension. No known 
family history of vasculitis or autoimmune disease.
 
Physical Exam:
ADMISSION EXAM
========================
 Vitals: 98.3 140/83 71 18 98% RA  
 General: well-appearing man in NAD  
 HEENT: NCAT, MM slightly dry, EOMI  
 CV: RRR, no m/r/g, normal s1s2  
 Lungs: CTAB without adventitious sounds  
 Abdomen: tenderness to palpation in RUQ and RLQ without rebound 
or guarding  
 Ext: no edema, palpable distal pulses  
 Skin: Diffuse non-blanching rash c/w prior leukocytoclastic 
vasculitis on forearms, abdomen and lower extremities  
 Neuro: A&Ox3, no focal neuro deficits  

DISCHARGE EXAM
=========================
VS - Tmax 98.1, HR 70, RR 18, 119/71, 98% RA
General: well appearing, NAD, A+Ox3
HEENT: MMM, EOMI, OP clear
Neck: no JVD, no LAD  
CV: rrr, no m/r/g  
Lungs: CTAB, breathing comfortably  
Abdomen: soft, obese, tender in RUQ and R flank without rebound 
or guarding
Ext: warm and well perfused, no edema
Skin: Numerous non-blanching, nontender, erythematous petechial 
plaques and papules throughout lower extremities, abdomen
Neuro: grossly normal
 
Pertinent Results:
ADMISSION LABS
=======================
___ 05:29PM BLOOD WBC-11.6* RBC-4.77 Hgb-12.1* Hct-38.5* 
MCV-81* MCH-25.4* MCHC-31.4* RDW-13.7 RDWSD-39.7 Plt ___
___ 05:29PM BLOOD Neuts-70.5 ___ Monos-6.7 Eos-1.5 
Baso-0.3 Im ___ AbsNeut-8.19* AbsLymp-2.40 AbsMono-0.78 
AbsEos-0.17 AbsBaso-0.04
___ 05:29PM BLOOD Glucose-92 UreaN-14 Creat-1.3* Na-140 
K-4.3 Cl-104 HCO3-25 AnGap-15
___ 05:29PM BLOOD ALT-52* AST-39 AlkPhos-67 TotBili-0.5
___ 05:29PM BLOOD Lipase-29
___ 05:29PM BLOOD Albumin-4.0
___ 12:13AM BLOOD Calcium-8.5 Phos-3.6 Mg-1.9
___ 05:29PM URINE Color-Yellow Appear-Clear Sp ___
___ 05:29PM URINE Blood-MOD Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.0 Leuks-NEG
___ 05:29PM URINE RBC-124* WBC-2 Bacteri-FEW Yeast-NONE 
Epi-<1
___ 05:29PM URINE Hours-RANDOM UreaN-998 Creat-315 Na-196 
TotProt-23 Prot/Cr-0.1

DISCHARGE LABS
========================
___ 07:14AM BLOOD WBC-8.5 RBC-4.49* Hgb-11.6* Hct-36.0* 
MCV-80* MCH-25.8* MCHC-32.2 RDW-13.8 RDWSD-40.0 Plt ___
___ 07:14AM BLOOD Glucose-89 UreaN-11 Creat-1.0 Na-140 
K-4.2 Cl-104 HCO3-26 AnGap-14
___ 07:14AM BLOOD Calcium-8.8 Phos-3.5 Mg-1.9

REPORTS
========================
CT Abdomen ___. 4 mm stone in the right ureteropelvic junction likely 
accounting for right flank pain.  No hydronephrosis.  Additional 
nonobstructing stones within both kidneys. 
2. Normal appendix. 
3. Hepatic steatosis. 
 
Brief Hospital Course:
___ y/o M with a h/o recently diagnosed IgA vasculitis who 
presents with abdominal pain, found to have nephrolithiasis and 
___.

ACTIVE ISSUES
======================
# Abdominal Pain: DDx includes nephrolithiasis, vasculitis 
abdominal pain, biliary colic. Has had multiple recently normal 
abdominal ultrasounds, making biliary colic less likely. CT scan 
was notable for a 4mm right sided stone at UPJ, no 
hydronephrosis. Given lack of bloody stools, vasculitis 
abdominal pain less likely. Used tylenol, tramadol for pain 
control. ___ continue nightly pantoprazole 40mg (had been 
helpful in outpatient setting). Will treat nephrolithiasis as 
below.

# Nephrolithiasis: 4mm stone at UPJ, could be the source of the 
abdominal pain. Less likely to be the etiology of his ___ given 
unilateral, and no hydronephrosis. Approximately 70% likelihood 
this will clear in 2 weeks time. Started Tamsulosin 0.4mg QHS x1 
week, or until stone has passed. Tylenol, tramadol may be used 
PRN for pain control.

# ___: Presented with Cr of 1.3, which after 2L of IV fluids 
improved to 1.0. DDx includes poor PO in setting of abdominal 
pain, renal involvement from his vasculitis, transient 
obstruction from stone. Improvement after IVF is reassuring. 
Urine lytes not consistent with pre-renal azotemia, given very 
high Na. Microscopic examination of his urine was done with the 
help of the Renal Fellow, and it was unrevealing for any casts 
or evidence of glomerular damage. He sees his PCP 2 days after 
discharge, and Creatinine can be rechecked at that time.

CHRONIC ISSUES
===========================
# IgA Vasculitis: Diagnosed on skin biopsy. Unclear if 
associated with his abdominal pain, renal function, or not. 
Diffuse rash, but asymptomatic. Cotninue Triamcinolone topical 
PRN. Outpatient follow up with Dermatologist.

# NAFLD: High AST, steatosis on imaging. No e/o synthetic 
dysfunction. Outpatient ___. Encourage weight loss.

TRANSITIONAL ISSUES
==========================
- Recommend to recheck Creatinine at PCP ___ on ___ to 
ensure still normal
- Patient started on Tamsulosin 0.4mg QHS to help with renal 
colic for 1 week or until expulsion of stone.
- Will be discharged with Tylenol for pain control, with short 
prescription of Tramadol for breakthrough pain
- Full code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID rash 
2. Pantoprazole 40 mg PO Q24H 

 
Discharge Medications:
1. Pantoprazole 40 mg PO Q24H 
2. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID rash 
3. Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth nightly Disp #*7 
Capsule Refills:*0
4. Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth three times daily 
Disp #*21 Tablet Refills:*0
5. TraMADol 50 mg PO Q6H:PRN breakthrough pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: IgA vasculitis, nephrolithiasis, acute kidney injury

Secondary: Non-alcoholic fatty liver disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

It was a pleasure caring for you at ___. You were admitted to 
us because of abdominal pain, and worsening kidney function. The 
CT scan revealed a kidney stone on your right side. Your kidney 
function improved back to normal after IV fluids. A kidney 
doctor looked at your urine and did not see any evidence of 
kidney damage.

We have started you on a medication called Tamsulosin, to be 
taken once every night, to help with passing the stone. Please 
take this until you see the kidney stone pass, or for 1 week if 
you do not see the stone pass.

You should follow up with your primary care doctor, ___, 
and dermatologist as scheduled.

We wish you all the best,
___ Medicine Team
 
Followup Instructions:
___